US07560551B2
To a stirring solution of N-tert-butylfuran-2-carboxamide (1.8 ml, 12 mmol) in 100 mL DME under argon at −78° C. was added tert-butyllithium, 1.7 M solution in pentane (14 ml, 24 mmol) slowly dropwise over 5 min. The heterogeneous reaction mixture was allowed to stir 1 h, at which point a solution of N-tert-butylfuran-2-carboxamide (1.8 ml, 12 mmol) in 10 mL DME was added over 5 min, dropwise. After 15 min, the bath was removed and the reaction was allowed to warm to ambient temperature. The reaction was quenched by addition of saturated aqueous ammonium chloride, water, and EtOAc. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The resulting material was purified by silica gel chromatography, ISCO, 80 g, 0-40% EtOAc/hexanes over 33 min to give a semi-solid. This material was triturated 3× hexanes to give 3-benzoyl-N-tert-butylfuran-2-carboxamide as white crystals. MS m/z=272 [M+H]+. Calc'd for C16H17NO3: 271.3.

reactant | N-tert-butylfuran-2-carboxamide | 12 mmol, 1.8 ml | C(C)(C)(C)NC(=O)C=1OC=CC1 | C9H13NO2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 24 mmol, 14 ml | CCCCC | C5H12
reactant | N-tert-butylfuran-2-carboxamide | 12 mmol, 1.8 ml | C(C)(C)(C)NC(=O)C=1OC=CC1 | C9H13NO2
reactant | DME | 100 mL | COCCOC | C4H10O2
reactant | DME | 10 mL | COCCOC | C4H10O2
product | 3-benzoyl-N-tert-butylfuran-2-carboxamide | C(C1=CC=CC=C1)(=O)C1=C(OC=C1)C(=O)NC(C)(C)C | C16H17NO3
